US04438038
A mixture of 50 grams of cobalt powder, 316.2 grams (1.697 moles) of neodecanoic acid (acid number, 301), a catalyst solution prepared by dissolving 2.5 grams of sodium formate and 2.5 grams of ammonium nitrate in 20 grams of water, and 130 grams of mineral spirits was heated to 85° C. and maintained at that temperature for 3.5 hours while it was sparged with air at the rate of 30 liters per hour. After the addition of a solution prepared by dissolving 2.5 grams of sodium formate and 2.5 grams of ammonium nitrate in 20 grams of water, the reaction mixture was heated at 85° C. for 2.5 hours. It was then heated at 135° C., under vacuum to remove water from it, filtered, and diluted with mineral spirits. There was obtained a solution of cobalt neodecanoate in mineral spirits that contained 10% by weight of cobalt and had an acid number of 16.

reactant | cobalt | 50 grams | [Co] | Co
reactant | neodecanoic acid | 1.697 moles, 316.2 grams | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | sodium formate | 2.5 grams | C(=O)[O-].[Na+]
reactant | ammonium nitrate | 2.5 grams | [N+](=O)([O-])[O-].[NH4+]
reactant | sodium formate | 2.5 grams | C(=O)[O-].[Na+]
reactant | ammonium nitrate | 2.5 grams | [N+](=O)([O-])[O-].[NH4+]
solvent | water | 20 grams | O | H2O
solvent | water | 20 grams | O | H2O
product | cobalt neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Co+2].C(CCCCCC(C)(C)C)(=O)[O-] | InChI=1S/2C10H20O2.Co/c2*1-10(2,3)8-6-4-5-7-9(11)12;/h2*4-8H2,1-3H3,(H,11,12);/q;;+2/p-2
